US07320990B2
8-Benzyloxy-5-[(R)-2-(N-benzylamino)-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one
To a 500 mL three-necked round-bottom flask was added 8-benzyloxy-5-[(R)-2-bromo-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one (43 g, 0.124 mol, about 95% chiral purity), 1-methyl-2-pyrrolidinone (210 mL) and benzylamine (28.3 g, 0.37 mol). The resulting mixture was flushed with nitrogen and then stirred at 90° C. for 6 hours. The mixture was then cooled to room temperature and water (300 mL) and ethyl acetate (300 mL) were added. The layers were separated and the organic layer was washed with water (200 mL), a 1:1 mixture of water and aqueous saturated sodium chloride solution (200 mL), and water (200 mL). The organic layer was then dried over magnesium sulfate, filtered and concentrated under reduced pressure to provide the title compound as an orange oil.

reactant | 8-benzyloxy-5-[(R)-2-bromo-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one | 0.124 mol, 43 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)O[Si](C)(C)C(C)(C)C | C24H30BrNO3Si
reactant | benzylamine | 0.37 mol, 28.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | 1-methyl-2-pyrrolidinone | 210 mL | CN1C(CCC1)=O | C5H9NO
product | 8-Benzyloxy-5-[(R)-2-(N-benzylamino)-1-(tert-butyldimethylsilanyloxy)ethyl]-1H-quinolin-2-one | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CNCC1=CC=CC=C1)O[Si](C)(C)C(C)(C)C | C31H38N2O3Si
